US04755513
To a solution of 6,8-Difluoro-1-(4-hydroxyphenyl)-7-(1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (4.18 g) in DMF (29 ml) is added a solution of methyl iodide (7.7 g) in DMF (20 ml). The mixture is heated in a stainless steel autoclave on an oil bath at 110°-120° C. for 5 hours. DMF is distilled off under reduced pressure, and to the residue is added 10% aqueous sodium hydroxide to regulate pH 13. The insoluble substance is filtered off, and the remaining mixture is regulated to pH 8 with acetic acid. The precipitated crystals are separated by filtration, washed with water, dried, and then recrystallized from DMF to give 6,8-difluoro-1-(4-hydroxyphenyl)-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.7 g) as pale yellowish white crystals, m.p. >300° C.

reactant | 6,8-Difluoro-1-(4-hydroxyphenyl)-7-(1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 4.18 g | FC=1C=C2C(C(=CN(C2=C(C1N1CCNCC1)F)C1=CC=C(C=C1)O)C(=O)O)=O | C20H17F2N3O4
reactant | methyl iodide | 7.7 g | CI | CH3I
solvent | DMF | 29 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6,8-difluoro-1-(4-hydroxyphenyl)-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.7 g | FC=1C=C2C(C(=CN(C2=C(C1N1CCN(CC1)C)F)C1=CC=C(C=C1)O)C(=O)O)=O | C21H19F2N3O4
